US07981893B2
SYNTHESIS OF (R)-1-(1-PHENYLETHYL)-6-(QUINOLIN-5-YL)-1H-IMIDAZO[4,5-C]PYRIDIN-2(3H)-ONE
1-((1R)-1-phenylethyl)-6-(5-quinolyl)-4-imidazolino[4,5-c]pyridine-2-one. ((1R)-1-Phenylethyl)(3-amino-6-(5-quinolyl)(4-pyridyl))amine (150 mg, 0.44 mmol) and urea (52.8 mg, 0.88 mmol) were combined in 1-methylpyrrolidin-2-one (4 mL) and heated at 185° C. for 2 h. Water (10 mL) was added and the crude product was collected by filtration. The product was purified by reverse-phase preparative HPLC (20-95% acetonitrile in water, over 30 min) to give the title compound (52.3 mg, 32.4%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.45 (s, 1H) 8.91 (dd, J=4.10, 1.56, 1H) 8.39 (d, J=0.78, 1H) 8.33 (ddd, J=8.74, 1.71, 0.88, 1H) 8.05 (d, J=8.49, 1H) 7.80 (dd, J=8.49, 7.13, 1H) 7.59 (dd, J=7.22, 1.37, 1H) 7.41-7.46 (m, 3H) 7.30-7.40 (m, 3H), 5.75 (d, J=7.22, 1H), 4.16 (d, J=0.98, 1H), 1.87 (d, J=7.22, 3H); MS (ESI) m/z 367.0 [M+1]+.

reactant | ((1R)-1-Phenylethyl)(3-amino-6-(5-quinolyl)(4-pyridyl))amine | 0.44 mmol, 150 mg | C1(=CC=CC=C1)[C@@H](C)NC1=C(C=NC(=C1)C1=C2C=CC=NC2=CC=C1)N | C22H20N4
reactant | urea | 0.88 mmol, 52.8 mg | NC(=O)N | CH4N2O
reactant | Water | 10 mL | O | H2O
solvent | 1-methylpyrrolidin-2-one | 4 mL | CN1C(CCC1)=O | C5H9NO
product | (R)-1-(1-PHENYLETHYL)-6-(QUINOLIN-5-YL)-1H-IMIDAZO[4,5-C]PYRIDIN-2(3H)-ONE | 52.3 mg, 32.4% | C1(=CC=CC=C1)[C@@H](C)N1C(NC=2C=NC(=CC21)C2=C1C=CC=NC1=CC=C2)=O | C23H18N4O
